US07820665B2
N-(6-(3,4-Dimethoxyphenyl)imidazo[1,2-b]pyridazin-2-yl)acetamide
To a 10-mL, reaction vial was added N-(6-chloroimidazo[1,2-b]pyridazin-2-yl)acetamide (0.108 g, 0.51 mmol), 3,4-dimethoxyphenylboronic acid (0.112 g, 0.61 mmol, Alfa Aesar, Ward Hill, Mass.), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium, complex with dichloromethane (31 mg, 0.038 mmol), potassium carbonate (0.213 g, 1.54 mmol), DME (3 mL), and water (1 mL). The vial was sealed and purged with nitrogen for several minutes. The mixture was stirred at 100° C. for 1 h and then allowed to cool to room temperature. The organic phase was taken and the solvents eliminated under vacuum. Purification by silica gel chromatography (4 to 6% MeOH/CH2Cl2) afforded the title compound as an off-white solid. MS (ESI positive ion) m/z: 313 (M+1). 1H NMR (400 MHz, DMSO-d6): δ ppm 10.86 (s, 1H), 8.26 (s, 1H), 8.00 (d, J=9.6 Hz, 1H), 7.78 (d, J=9.6 Hz, 1H), 7.66-7.57 (m, 2H), 7.11 (d, J=9.0 Hz, 1H), 3.88 (s, 3H), 3.84 (s, 3H), 2.11 (s, 3H).

reactant | N-(6-chloroimidazo[1,2-b]pyridazin-2-yl)acetamide | 0.51 mmol, 0.108 g | ClC=1C=CC=2N(N1)C=C(N2)NC(C)=O | C8H7ClN4O
reactant | 3,4-dimethoxyphenylboronic acid | 0.61 mmol, 0.112 g | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | dichloromethane | 0.038 mmol, 31 mg | ClCCl | CH2Cl2
reactant | potassium carbonate | 1.54 mmol, 0.213 g | C([O-])([O-])=O.[K+].[K+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 1 mL | O | H2O
solvent | DME | 3 mL | COCCOC | C4H10O2
product | N-(6-(3,4-Dimethoxyphenyl)imidazo[1,2-b]pyridazin-2-yl)acetamide | COC=1C=C(C=CC1OC)C=1C=CC=2N(N1)C=C(N2)NC(C)=O | C16H16N4O3
